US07157585B2
A solution of 4-cyanophenylacetic acid (12.11 g, 0.075 mol) in water (163 mL) and concentrated aqueous ammonia (40 mL) was stirred at room temperature and Raney nickel (6.3 g) was added. The resulting suspension was stuirred under a hydrogen atmosphere for 24 hours before the reaction mixture was filtered through celite and evaporated in vacuo to give crude 4-(aminomethyl)-phenylacetic acid (12.57 g; 100%) as a pale blue solid.

reactant | 4-cyanophenylacetic acid | 0.075 mol, 12.11 g | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
solvent | water | 163 mL | O | H2O
solvent | ammonia | 40 mL | N | H3N
catalyst | Raney nickel | 6.3 g | [Ni] | Ni
product | 4-(aminomethyl)-phenylacetic acid | 12.57 g, 100% | NCC1=CC=C(C=C1)CC(=O)O | C9H11NO2
